US04539151
Preparation of 3-amino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one
14 ml of a 25% solution of hydrogen bromide in acetic acid was added to 3.0 g of 3-benzyloxycarbonylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and the resulting mixture was stirred at room temperature for an hour. After the addition of ether, the precipitated crystals were separated by filtration to obtain 2.45 g of the hydrobroxide of the desired compound, or 3-amino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one. Its melting point was 290° C. or above.

reactant | hydrogen bromide | Br | BrH
reactant | 3-benzyloxycarbonylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.0 g | C(C1=CC=CC=C1)OC(=O)NC1CSC2=C(NC1=O)C=CC=C2 | C17H16N2O3S
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-amino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | NC1CSC2=C(NC1=O)C=CC=C2 | C9H10N2OS
